US07355049B2
Palladium(II) acetate (52 mg, 0.23 mmol) was added to a mixture of 4-iodophenol (5.00 g, 22.7 mmol), 4-methyl-phenyl-boronic acid (3.4 g, 25.0 mmol), sodium hydroxide (3.6 g, 90 mmol), and water (9 mL). The mixture was diluted twice with water (9 mL) to facilitate stirring. An exotherm occurred, and after 15 minutes the internal temperature was 50° C. The reaction mixture was cooled to room temperature and allowed to stir overnight, and the solid was filtered off, washed with water, and dissolved in ethyl acetate. The organic solution was washed with water, three times with 1 M NaOH, and then again with water until the washings were neutral. The solution was then dried (sodium sulfate), filtered, and evaporated to give 4′-methyl-biphenyl-4-ol (2 g, 48%).

reactant | 4-iodophenol | 22.7 mmol, 5.00 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 4-methyl-phenyl-boronic acid | 25.0 mmol, 3.4 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | sodium hydroxide | 90 mmol, 3.6 g | [OH-].[Na+]
solvent | water | 9 mL | O | H2O
catalyst | Palladium(II) acetate | 0.23 mmol, 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 9 mL | O | H2O
product | 4′-methyl-biphenyl-4-ol | 2 g, 48% | CC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O
